* Z:\home\frohro\Classes\Power Electronics\Buck Converter Arduino Control\Arduino Buck Converter.asc
M§Q1 N002 N007 N001 N001 IRF9640
V1 N001 0 10V
D1 0 N002 B540C
L1 N003 N004 1mH Rser=.1
C1 N005 N006 100µF Rser=.1
RL N005 0 10
V2 N010 0 PULSE(0 4.5 0 {T/100} {T/100} {.5*T} {T})
R5 N005 N004 1
Q2 N007 N009 N008 0 2N2222
R1 N001 N007 1k
R2 N009 N010 10k
V3 N008 0 3.3V
Rinductor N003 N002 0.33
R3 N006 0 8m
.model D D
.lib C:\users\frohro\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\frohro\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\frohro\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param T={1/30000}
.tran {400*T}
* R2 needs to be at least one watt.
* D1 should be at least 1/2 watt.
* R3 needs to be 1/4 watt at least.
* Q1 must dissipate at least 500 mW.
.backanno
.end
